US07589206B2
3-Chloro-4-{[1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]amino}benzonitrile hydrochloride
A mixture of 4-chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine (100 mg), 2-chloro-4-cyanoaniline (60 mg), cesium carbonate (168 mg), tris(dibenzylideneacetone)dipalladium (0) (15 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (10 mg) in 1,4-dioxan (2 ml) was heated to 100° C. under nitrogen for 2 h. Added tris(dibenzylideneacetone)dipalladium (0) (15 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (10 mg) and continued heating at 100° C. under nitrogen over night. Added tris(dibenzylideneacetone)dipalladium (0) (15 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (10 mg) and continued heating at 100° C. under nitrogen over night. The reaction mixture was diluted with dichloromethane and washed with water then dried (MgSO4), filtered and evaporated. Purified by trituration with 1:1 methanol:DMSO washing the filtered solid with methanol. Salt formation was as described in Example 101 to afford the title compound as a pale yellow solid (27 mg).

reactant | 4-chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine | 100 mg | ClC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | C13H14ClN3O2
reactant | 2-chloro-4-cyanoaniline | 60 mg | ClC1=C(N)C=CC(=C1)C#N | C7H5ClN2
reactant | cesium carbonate | 168 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 10 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 10 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 10 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxan | 2 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Chloro-4-{[1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]amino}benzonitrile hydrochloride | 27 mg | Cl.ClC=1C=C(C#N)C=CC1NC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | InChI=1S/C20H18ClN5O2.ClH/c1-25-5-4-14-18(25)15(20(27)26-6-8-28-9-7-26)12-23-19(14)24-17-3-2-13(11-22)10-16(17)21;/h2-5,10,12H,6-9H2,1H3,(H,23,24);1H
